US09079853B2
5-chloro-1-isobutyl-2-oxoindolin-3-yl benzoate
Was made in an analogous fashion to 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate using 5-chloro-1-isobutylindoline-2,3-dione. 1H NMR δ 8.11 (d, 2H), 7.60 (dd, 1H), 7.52-7.32 (m, 4H), 6.80 (d, 1H), 6.10 (s, 1H), 3.75 (m, 2H), 1.72-1.57 (m, 1H), 1.01 (dd, 6H).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 5-chloro-1-isobutylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC(C)C)=O)=O | C12H12ClNO2
product | 5-chloro-1-isobutyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CC(C)C)=O | C19H18ClNO3
